* 
*#SIMETRIX
V1 Vdd 0 15
X2 Vbias R2_P Vdd Vss X2_out RC4558 pinnames: inp inn vsp vsn out
V2 Vss 0 -15
R1 X2_out R2_P 10k
V3 Vbias 0 0
R2 R2_P Vin 1K
V4 Vin 0 AC 10 0
.KEEP X2_out
.GRAPH "db(:X2_out)" axisType="auto" persistence=0 curveLabel="dB" analysis="ac" xLog="auto" yLog="lin" yUnit="dB"  nowarn=true disabled=false
.AC DEC 25 1k 100Meg

